US08957069B2
1-(4-Methoxyphenyl)-4-(7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine
By using 7-methoxy-5-[4-(4-methoxyphenyl)piperazin-1-yl]-2,2,4,6-tetramethyl-1-benzofuran-3(2H)-one (110 mg, 0.268 mmol) synthesized in Reference example 76, the reaction was carried out in the same manner as Example 5 to synthesize the title compound 60 mg (yield 56%). Melting point was 161 to 163° C. (ethyl acetate-hexane). That is, to the THF (2.0 mL) suspension of lithium aluminum hydride (31 mg, 0.804 mmol), aluminum chloride (107 mg, 0.804 mmol) was added under ice cooling, and then the mixture was stirred for 10 minutes and added with the THF (3.0 mL) solution of 7-methoxy-5-[4-(4-methoxyphenyl)piperazin-1-yl]-2,2,4,6-tetramethyl-1-benzofuran-3(2H)-one (110 mg, 0.268 mmol), followed by further stirring for 2 hours under reflux. After cooling the mixture solution on ice, water and 0.5 N aqueous solution of sodium hydroxide was serially added, and extraction was performed using the mixture solvent of ethyl acetate-diethyl ether (1:1). After washing with the saturated brine, the extract solution was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The resulting residue was purified by silica gel chromatography (hexane-ethyl acetate 96:4-85:15) and crystallized from ethyl acetate and hexane to obtain the title compound 60 mg (yield 56%). Melting point was 161 to 163° C. In addition, synthesis was also performed according to the below-described method using 7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-amine hydrochloride (155.2 g, 602 mmol) synthesized in Reference Example 164 and N,N-bis(2-chloroethyl)-4-methoxyaniline (164 g, 662 mmol). That is, a suspension of NMP (1.40 L)-water (155 mL) containing 7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-amine hydrochloride (155.2 g, 602 mmol), N,N-bis(2-chloroethyl)-4-methoxyaniline (164 g, 662 mmol), potassium carbonate (250 g, 1.81 mol), and sodium iodide (135 g, 903 mmol) was stirred at 90° C. for 8 hours. After cooled to room temperature, water (2.80 L) was added to the mixture with the inner temperature thereof being maintained at 45 to 50° C. After cooled to room temperature, the precipitated solid was collected by filtration and washed with water. The obtained wet crystals were suspended in ethanol, and it was stirred overnight. After cooled in ice bath, the solid was collected by filtration and washed with a mixture of ethanol-water (90-10) to give a crudely purified product of the title compound as a solid (148.4 g). Similarly, a crudely purified product (165.1 g) was obtained from 7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-amine hydrochloride (165.1 g, 640 mmol), and the crudely purified products were put together and dissolved in toluene (2.5 L) to be subjected to Celite filtration, thereby removing insolubles. The solvent was removed under reduced pressure, and the obtained residue was crystallized from acetonitrile (3.0 L)-water (600 mL) to obtain a crude crystal (277.8 g). The obtained crude crystals were recrystallized from acetone (2.7 L)-water (1.35 L) to give 268.9 g of the title compound as a white crystal (yield 55%). Melting point was 163° C.

reactant | lithium aluminum hydride | 0.804 mmol, 31 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | aluminum chloride | 0.804 mmol, 107 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 7-methoxy-5-[4-(4-methoxyphenyl)piperazin-1-yl]-2,2,4,6-tetramethyl-1-benzofuran-3(2H)-one | 0.268 mmol, 110 mg | COC1=C(C(=C(C=2C(C(OC21)(C)C)=O)C)N2CCN(CC2)C2=CC=C(C=C2)OC)C | C24H30N2O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 1-(4-Methoxyphenyl)-4-(7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 60 mg, yield 56% | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(CC(O2)(C)C)C1C)OC)C | C24H32N2O3
